US05494908
a. 3-Amino-5-bromo-6-methoxy-1,2-benzisoxazole
To a stirred solution of 3-amino-6-methoxy-1,2-benzisoxazole (14 g) in methanol (1 L) was added a solution of bromine (13.6 g) and methanol (200 ml) dropwise at -50° C. under N2. The mixture was allowed to warm to room temperature after the addition was complete. After 24 hours an additional 1/4 equivalent of bromine was added. TLC (10% acetone/CHCl3) showed no starting material 24 hours later. The reaction was neutralized with saturated K2CO3 solution, treated with saturated Na2SO3 solution triturated with water, filtered, and washed with water. The crude product was dried in vacuo affording 14 g of product, m.p. 226°-227° C.

reactant | 3-amino-6-methoxy-1,2-benzisoxazole | 14 g | NC1=NOC2=C1C=CC(=C2)OC | C8H8N2O2
reactant | bromine | 13.6 g | BrBr | Br2
reactant | bromine | 1/4 equivalent | BrBr | Br2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | methanol | 1 L | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
solvent | acetone CHCl3 | CC(=O)C.C(Cl)(Cl)Cl
product | 3-Amino-5-bromo-6-methoxy-1,2-benzisoxazole | 14 g | NC1=NOC2=C1C=C(C(=C2)OC)Br | C8H7BrN2O2
